US08252935B2
a) 4-Methyl-2-{4′-trifluoromethyl-5-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (42 mg, 0.094mmol) in anhydrous CH2Cl2 (5 ml) was added 3-(Trifluoromethyl)benzene sulfonyl chloride (22.5 μl, 0.14 mmol) and diisopropylethylamine (32.7 μl, 0.19 mmol). The reaction stirred at room temperature overnight, was diluted with EtOAc and washed with sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (48.5 mg, 79%). Calcd for C33H35F6NO4S (M+H) 655.69, Found 656.2.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.094mmol, 42 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | 3-(Trifluoromethyl)benzene sulfonyl chloride | 0.14 mmol, 22.5 μl | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | diisopropylethylamine | 0.19 mmol, 32.7 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(3-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | 48.5 mg, 79% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C33H35F6NO4S
